US08258160B2
Synthesis of N-benzyl-2-(2-benzyloxazol-5-yl)-4-methylthiazole-5-carboxamide
To a solution of N-benzyl-4-methyl-2-(oxazol-5-yl)thiazole-5-carboxamide (0.20 g, 0.67 mmol) in tetrahydrofuran (20 mL) was added n-butyllithium (0.88 mL of 1.6 M solution in hexanes, 1.40 mmol) at −78° C. The reaction mixture was stirred for 30 minutes, and iodine (0.17 g, 0.67 mmol) was added. The reaction was slowly warmed to ambient temperature over 4 hours and stirred for another 18 hours. Tetrakis-(triphenylphosphine)palladium (0.04 g, 0.03 mmol) and benzylzinc bromide (2.5 mL of 0.5 M solution in tetrahydrofuran, 1.25 mmol) were added. The reaction mixture was heated to 50° C. for 17 hours, cooled to ambient temperature, added saturated ammonium chloride solution (10 mL) to quench the reaction. The mixture was extracted with ethyl acetate. The organic solution was washed with water and brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by column chromatography to afford the title compound in 5% yield (0.02 g): mp 141-142° C.; 1H NMR (300 MHz, CDCl3) δ 7.82 (s, 1H), 7.44-7.15 (m, 10H), 6.07 (t, J=5.6 Hz, 1H), 4.61 (d, J=5.6 Hz, 2H), 4.34 (s, 2H), 2.74 (s, 3H); MS (ES+) m/z 390.2 (M+1).

reactant | N-benzyl-4-methyl-2-(oxazol-5-yl)thiazole-5-carboxamide | 0.67 mmol, 0.20 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C1=CN=CO1)C | C15H13N3O2S
reactant | n-butyllithium | 1.40 mmol, 1.6 M, 0.88 mL | C(CCC)[Li]
reactant | iodine | 0.67 mmol, 0.17 g | II | I2
reactant | benzylzinc bromide | 1.25 mmol, 0.5 M, 2.5 mL | [Br-].C(C1=CC=CC=C1)[Zn+]
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-benzyl-2-(2-benzyloxazol-5-yl)-4-methylthiazole-5-carboxamide | 5% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C1=CN=C(O1)CC1=CC=CC=C1)C | C22H19N3O2S
